US04048191
To a solution of 91.0 g of 1-(pyrrol-2-ylmethylene)pyrrolidmium bromide (0.397 mole) in 1300 ml of absolute chloroform is added dropwise with stirring and ice-cooling 63.4 g of bromine (0.397mole). A solid precipitates during addition. After the reaction mixture has been stirred at room temperature for 64 hours, the solvent is evaporated in vacuo and the residue is recrystallized from 3:1 chloroform-acetonitrile to give as an off-white solid 1-(4-bromopyrrole-2-ylmethylene)pyrrolidinium bromide; m.p. 226°-228° C.

reactant | 1-(pyrrol-2-ylmethylene)pyrrolidmium bromide | 0.397 mole, 91.0 g | [Br-].N1C(=CC=C1)C=[N+]1CCCC1
reactant | bromine | 0.397mole, 63.4 g | BrBr | Br2
solvent | chloroform | 1300 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-bromopyrrole-2-ylmethylene)pyrrolidinium bromide | [Br-].BrC=1C=C(NC1)C=[N+]1CCCC1 | InChI=1S/C9H11BrN2.BrH/c10-8-5-9(11-6-8)7-12-3-1-2-4-12;/h5-7H,1-4H2;1H
